US06784192B2
1-[(2-Methoxy-3-pyridyl)methyl]-4-piperidinemethanol
10 g of 4-piperidinemethanol, 13 g of 3-(chloromethyl)-2-methoxypyridine and 24 g of potassium carbonate were suspended in 80 ml of N,N-dimethylformamide, and the mixture was stirred at room temperature for 12 hours. Water was added to the reaction solution, the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and then the layer was dried over anhydrous magnesium sulfate. The solvent was evaporated, to give 16.1 g of the title compound as a pale brown oil.

reactant | 4-piperidinemethanol | 10 g | N1CCC(CC1)CO | C6H13NO
reactant | 3-(chloromethyl)-2-methoxypyridine | 13 g | ClCC=1C(=NC=CC1)OC | C7H8ClNO
reactant | potassium carbonate | 24 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 1-[(2-Methoxy-3-pyridyl)methyl]-4-piperidinemethanol | 16.1 g | COC1=NC=CC=C1CN1CCC(CC1)CO | C13H20N2O2
